US04297129
2-(3-Chloro-tetrahydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (0.8 g) and potassium t-butoxide (0.7 g) are added to dimethyl sulfoxide (3 ml), and the mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into ice-water. The mixture is acidified with acetic acid and extracted with chloroform. The chloroform extract is washed with water, dried and evaporated to remove the solvent. The crude residue is recrystallized from ethanol to give 2-(2,5-dihydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 81). Yield, 0.5 g (76%). M.P., 147°-148° C.

reactant | 2-(3-Chloro-tetrahydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 0.8 g | ClC1C(OCC1)N1N=CC(NC1=O)=O | C7H8ClN3O3
reactant | potassium t-butoxide | 0.7 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,5-dihydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | O1C(C=CC1)N1N=CC(NC1=O)=O | C7H7N3O3
